US07626042B2
(4) 5-Chloro-N-{4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]thiazol-2-yl}-2-[(morpholinocarbonyl)oxy]benzamide(Compound No. 92)
Using 5-chloro-N-{4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]-thiazol-2-yl}-2-hydroxybenzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 5-chloro-N-{4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]-thiazol-2-yl}-2-hydroxybenzamide | ClC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C(C)(C)C)C(C(C)(C)C)=O)C1)O | C19H23ClN2O3S
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 5-Chloro-N-{4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]thiazol-2-yl}-2-[(morpholinocarbonyl)oxy]benzamide | Yield: 93.1% | ClC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C(C)(C)C)C(C(C)(C)C)=O)C1)OC(=O)N1CCOCC1 | C24H30ClN3O5S
